US05990101
To a mixed solution obtained by adding 2.74 ml of triethylamine to 210 ml of a dry THF solution containing 4.228 g of 2-(N-t-butoxycarbonylamino)methylthiazol-4-carboxylic acid, 1.94 ml of ethyl chloroformate was added dropwise at -12° C. over 2 minutes under stirring, and the mixture was then stirred at the same temperature for 120 minutes. Further, 50 ml of a cold aqueous solution containing 1.316 g of sodium azide was added thereto, followed by stirring at 2° C. for 140 minutes. Afterward, the reaction solution was concentrated under reduced pressure until the amount of the solution had been halved. The solution was diluted with 300 ml of ethyl acetate, washed with water, and then dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to obtain a colorless powder, and this powder was then dissolved in 200 ml of dry toluene. Then, 3.34 ml of dry allyl alcohol was further added, and the mixed solution was heated at an oil temperature of 90° C. for 3 hours with stirring. Afterward, the solvent was evaporated under reduced pressure to obtain an oil, and this oil was then dissolved in 400 ml of ethyl acetate. The solution was washed with water and then dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure to obtain 4.791 g of 4-allyloxycarbonylamino-2-(N-t-butoxycarbonylamino)methylthiazole as an orange oil.

reactant | 2-(N-t-butoxycarbonylamino)methylthiazol-4-carboxylic acid | 4.228 g | C(C)(C)(C)OC(=O)NCC=1SC=C(N1)C(=O)O | C10H14N2O4S
reactant | ethyl chloroformate | 1.94 ml | ClC(=O)OCC | C3H5ClO2
reactant | sodium azide | 1.316 g | [N-]=[N+]=[N-].[Na+]
reactant | allyl alcohol | 3.34 ml | C(C=C)O | C3H6O
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 400 ml | C(C)(=O)OCC | C4H8O2
solvent | THF | 210 ml | C1CCOC1 | C4H8O
solvent | triethylamine | 2.74 ml | C(C)N(CC)CC | C6H15N
product | 4-allyloxycarbonylamino-2-(N-t-butoxycarbonylamino)methylthiazole | 4.791 g | C(C=C)OC(=O)NC=1N=C(SC1)CNC(=O)OC(C)(C)C | C13H19N3O4S
